US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-2-pyridinecarboxamide [77]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (50 mg) and commercially available picolinic acid (42 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (123 mg) was added, and the admixture was stirred at room temperature for 19 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 38 mg of the title compound (yield: 56%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | picolinic acid | 42 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 123 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-2-pyridinecarboxamide | 38 mg, yield: 56% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C23H19N3O4
